US05691323
A mixture of 15.5 g of 2-(tert-butoxycarbonylaminomethyl)aniline, 15 g of N-t-butyloxycarbonyl-4-piperidone, 250 mL of 1,2-dichloroethane, 4.2 mL of glacial acetic acid and 25 g of sodium triacetoxyborohydride was stirred at room temperature for 48 h. The reaction mixture was poured into 500 mL chloroform and 500 mL saturated aqueous Na2CO3 and the layers separated. The aqueous layer was extracted with 2×250 mL of chloroform and the combined organic layers dried over MgSO4 and concentrated under reduced pressure. Drying overnight under vacuum gave 30.1 g of tert-butyl (2-(tert-butoxycarbonylaminomethyl)anilino)piperidine carboxylate as a solid: 1H NMR (400 MHz, CDCl3) 7.19 (t, 1H), 7.0 (d, 1H), 6.6 (dd, 2H), 4.94 (br s, 1H), 4.75 (br s, 1H), 4.23 (br m, 2H), 4.0 (br m, 2H), 3.45 (br m, 1H), 3.0 (br m, 2H), 2.0 (br m, 2H), 1.82 (br m, 1H), 1.46 (s, 9H), 1.44 (s, 9H).

reactant | 2-(tert-butoxycarbonylaminomethyl)aniline | 15.5 g | C(C)(C)(C)OC(=O)NCC1=C(N)C=CC=C1 | C12H18N2O2
reactant | N-t-butyloxycarbonyl-4-piperidone | 15 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | sodium triacetoxyborohydride | 25 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Na2CO3 | 500 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 500 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 4.2 mL | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 250 mL | ClCCCl | C2H4Cl2
product | tert-butyl (2-(tert-butoxycarbonylaminomethyl)anilino)piperidine carboxylate | 30.1 g | C(C)(C)(C)OC(=O)NCC1=C(NC2N(CCCC2)C(=O)OC(C)(C)C)C=CC=C1 | C22H35N3O4
